US06784188B2
Using the general method of Example 145, 1-(3-amino-2,2-dimethylpropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (1.0 g, 3.05 mmol) was reacted with phenyl isocyanate to provide 0.45 g of N-(3-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2,2-dimethylpropyl)-N′-phenylurea as a white powder, m.p. 125.0-130.0° C. Analysis: Calculated for C25H30N6O2. 0.40H2O: %C, 66.18; %H, 6.84; %N, 18.52; Found: %C, 66.05; %H, 6.61; %N, 18.64. %H2O calculated: 1.59; found: 1.53 (Karl Fisher);

reactant | 1-(3-amino-2,2-dimethylpropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 3.05 mmol, 1.0 g | NCC(CN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC)(C)C | C18H25N5O
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | N-(3-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2,2-dimethylpropyl)-N′-phenylurea | 0.45 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(CNC(=O)NC2=CC=CC=C2)(C)C)CCOC | C25H30N6O2
